US07244730B2
After dissolving 5-bromo-2-hydroxy-4-methylbenzoic acid (9.35 g) in dimethylformamide, potassium carbonate (14 g) and ethyl iodide (8 ml) were added in that order and the mixture was stirred at 50° C. for 3 hours. It was then diluted with ethyl acetate, washed with water and brine, dried over anhydrous magnesium sulfate, filtered and concentrated to yield ethyl 5-bromo-2-ethoxy-4-methylbenzoate. The product was dissolved in ethanol (100 ml), 5 N sodium hydroxide (20 ml) was added and the mixture was heated to reflux for 30 minutes. After adding 5 N hydrochloric acid (25 ml) for neutralization, extraction was performed with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, filtered and concentrated to yield the title compound (10.4 g) as a white solid.

reactant | 5-bromo-2-hydroxy-4-methylbenzoic acid | 9.35 g | BrC=1C(=CC(=C(C(=O)O)C1)O)C | C8H7BrO3
reactant | potassium carbonate | 14 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 8 ml | C(C)I | C2H5I
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 5-bromo-2-ethoxy-4-methylbenzoate | BrC=1C(=CC(=C(C(=O)OCC)C1)OCC)C | C12H15BrO3
